US06380197B1
4-(N,N-di-n-propylaminomethylene)benzoyl Chloride (monohydrochloride)
0.283 cm3 of oxalyl chloride and then a drop of dimethylformamide are successively added, at a temperature close to 20° C., to a suspension of 0.748 g of 4-(N,N-di-n-propylaminomethylene)benzoic acid monohydrochloride in 20 cm3 of dichloromethane. The reaction medium is kept stirred at a temperature close to 20° C. until the gaseous emission ceases, and then concentrated to dryness under reduced pressure (about 0.5 kPa) at a temperature close to 35° C. The white solid thus obtained is used as a base for the preparation of 4,4′-O,O-di(4-(N,N-di-n-propylaminomethylene)benzoyl)-2-[(1R,2S,3R)(1,2,3,4-tetrahydroxybutyl)]-5-[(2′S, 3′R)(2′,3′,4′-trihydroxybutyl)]pyrazine.

reactant | oxalyl chloride | 0.283 cm3 | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 4-(N,N-di-n-propylaminomethylene)benzoic acid monohydrochloride | 0.748 g | Cl.C(CC)N(CCC)C=C1CC=C(C(=O)O)C=C1
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
product | 4-(N,N-di-n-propylaminomethylene)benzoyl Chloride | C(CC)N(CCC)C=C1CC=C(C(=O)Cl)C=C1 | C14H20ClNO
